*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/4.70e-05[uF]/630[V]
* Murata P/N :GCM21A5C2J470JX01
* Property : C = 4.70e-05[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2J470JX01 Port1 Port2
C01 Port1 N01 4.70e-11
R01 Port1 N01 1.00e+11
L02 N01 N02 4.26e-10
R03 N02 N03 1.79e-01
L04 N03 N04 8.73e-12
R04 N03 N04 8.83e-02
C05 N04 N05 2.43e-10
L05 N04 N05 1.03e-11
R05 N04 N05 7.53e-01
C06 N05 N06 2.20e-11
L06 N05 N06 4.26e-11
R06 N05 N06 5.59e+00
C07 N06 N07 2.44e-11
L07 N06 N07 2.93e-11
R07 N06 N07 5.68e+00
C08 N07 Port2 3.72e-12
L08 N07 Port2 1.02e-10
R08 N07 Port2 2.15e+01
.ENDS GCM21A5C2J470JX01
